US08703742B2
2,3-Dihydroxy-4-methyl-benzaldehyde
To a solution of 1,2-dimethoxy-3-methyl-benzene (13.8 g, 76.66 mmol) cooled to −30° C. (dry ice/acetone) in dichloromethane (200 mL) was added boron trichloride (230 mL, 230 mmol) dropwise and the mixture was left to stir overnight at room temperature. The solution was cooled to 0° C. and ice/water was added carefully, and then extracted with excess of dichloromethane. The organic layer was washed with water, dried (Na2SO4) and the solvent was evaporated. Purification by silica gel column chromatography (10-20% EtOAc/hexane) gave the title compound as a crystalline solid: yield 9.2 g (80%). 1H NMR (400 MHz, CDCl3) δ (ppm): 11.11 (s, 1H), 9.82 (s, 1H), 7.05 (d, J=8.2 Hz, 1H), 6.81 (d, J=8.6 Hz, 1H), 5.67 (s, 1H), 2.33 (s, 3H).

reactant | 1,2-dimethoxy-3-methyl-benzene | 76.66 mmol, 13.8 g | COC1=C(C(=CC=C1)C)OC | C9H12O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | boron trichloride | 230 mmol, 230 mL | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2,3-Dihydroxy-4-methyl-benzaldehyde | OC1=C(C=O)C=CC(=C1O)C | C8H8O3
